datasets/10k__Tet_Int.csv
SMILES Labelled
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C(CC)[NH]1 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[S]C7=CC=CC=C7 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)[H])C1=CC=CC=C1)[O-:10])CC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)[H])C1=CC=CC=C1)CC 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])C)C)CCCCCC)CC>>CN([C:20]1(OC(C(C([O:21]1)C)C)CCCCCC)[O-:10])CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]([O:21]C)([S][H])[S]CC.[Cl-]>>[Cl-].C[O:10][H].C[O+:21]=[C:20]([S][H])[S]CC 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC1=CC=CC=C1)CCCCCC.[O-:21][H]>>C1=CC=CC=C1N([C:20]([O-:10])(OC1=CC=CC=C1)[O:21][H])CCCCCC 21=20;20,10=10"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCCCCCC)[H])C1=CC=CC=C1>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCCCCCC)[H])C1=CC=CC=C1 21=20;20,10=10"
"[H][S:10]C([H])C([H])C(CC)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C(CC)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])=C(C)C(C)C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)C(C)/C(C)=C([H])\[C:20](C)=[O:21] 21=20;20,10=10"
"[O:10]([Na])C(C)/C(C)=C(C)\C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C(C)=C(C)C(C)[O+:10]1([Na]) 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)[H])[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)[H])CC 10=20;20,21=21"
"CC[NH:10][H].C[NH+:21]=[C:20]([O]C)[NH]CC.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]C)([O]C)[NH]CC 10=20;20,21=21"
"CC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)C>>CC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C)C1=CC=CC=C1 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH](C)[O]1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.[H][S:10][H] 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O-:21][C:20]1(C)C([H])C([H])C(C)C(CCC)[O:10]1>>[O-:10]C(CCC)C(C)C([H])C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])CCCCCC)CC>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CC.[Cl-:21] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH](C)C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S][H])[O][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S][H])[O][H] 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](CC)[O]1 10=20;20,21=21"
"C(C(O[C:20](=[O:10])OC1=CC=CC=C1)CC)([O-:21])C>>C1(C([O:21][C:20](O1)([O-:10])OC1=CC=CC=C1)C)CC 21=20;20,10=10"
"[O-:10]C(C)/C(C)=C([C:20]([H])=[O:21])/O>>[O-:21][C:20]1([H])[O:10]C(C)C(C)=C1O 10=20;20,21=21"
"[H][NH:10]C([H])C(C)[NH][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)[NH]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[NH]2.C[NH:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)CC.[O-:21]C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CC 21=20;20,10=10"
